US05958933
Preparation of Bis-(4-methylbenzylidene)-Guanidine
4-Methylbenzaldehyde (MBA) (0.50 mols-60 grams) is admixed with guanidine hydrochloride (0.25 mols, 25 grams) in molar ratio of 2:1. They are then heated under reflux in 150 ml of toluene under a Dean Stark water collector trap for approximately 17 hours to collect the theoretical amount of H2 0 evolved. The hot solution is rapidly decanted to ensure the removal of insoluble residues. The solution is then evaporated to dryness on a rotary evaporator. The crude immine is then recrystalized twice from absolute ethanol.

reactant | 4-Methylbenzaldehyde | CC1=CC=C(C=O)C=C1 | C8H8O
reactant | guanidine hydrochloride | 0.25 mols, 25 grams | Cl.NC(=N)N
reactant | water | O | H2O
solvent | toluene | 150 ml | C1(=CC=CC=C1)C | C7H8
product | Bis-(4-methylbenzylidene)-Guanidine | CC1=CC=C(C=NC(N=CC2=CC=C(C=C2)C)=N)C=C1 | C17H17N3
